US06331538B1
1-(4-Hydroxyphenyl)-6-fluoro-3-benzyloxy-7-pyrrolidine-1-yl-1H-quinazoline-2,4-dione
Using General Method 4, the reaction of pyrrolidine (0.04 mL, 0.5 mmol), triethylamine (0.07 mL, 0.5 mmol), and 1-(4-hydroxyphenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example J-1, 0.065 g 0. 16 mmol) provided 0.05 g of the title compound as a solid.

reactant | pyrrolidine | 0.5 mmol, 0.04 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-hydroxyphenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 16 mmol, 0.065 g | OC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H14F2N2O4
product | 1-(4-Hydroxyphenyl)-6-fluoro-3-benzyloxy-7-pyrrolidine-1-yl-1H-quinazoline-2,4-dione | 0.05 g | OC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)OCC1=CC=CC=C1)=O | C25H22FN3O4
